Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[C:7][O:8][H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],-2.8626471719
[H:1][C:2]=[C:4]([H:5])[O:6][O:7][C:8]([H:9])([H:10])[H:11].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][O:7][C:8]([H:9])([H:10])[H:11],-5.11906782547
[H:1][O:2][C@:3]12[O:4][C@:5]1([C:6]([H:7])([H:8])[H:9])[C:10]2[H:11]>>[H:1][O:2][C:3][O:4][C:5]([C:6]([H:7])([H:8])[H:9])=[C:10][H:11],1.86919270091
[H:5].[O:1][O:2][C:3]([H:4])[C:6][C:7]#[C:8][H:9]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]#[C:8][H:9],-1.90072626165
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:10]([H:11])([H:12])[H:13].[O:8][H:9],3.04151160186
[O:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[H:4],1.20832402006
[H:1][C:2]([H:3])[H:4].[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.87913631258
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[C:6]([H:7])#[C:8][C:9]([H:10])[H:11].[O:1][O:2][C:3]([H:4])[H:5],2.77253621068
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9],-5.40243981863
[C:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:11]([H:12])([H:13])[H:14].[C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.98836239578
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][C:9]([H:10])([H:11])[H:12],-4.58451731669
[C:1].[C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-6.425560191590001
[H:1][C:2]([H:3])=[C:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:6],2.1408534195200004
[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][O:4][C:5]#[C:6][C:8]([H:9])[H:10].[H:7],3.13221548333
[C:5]([H:6])[H:7].[H:1][O:2][C:3]([H:4])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.99422519339
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])([H:5])[H:6].[H:1][C:2][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],4.76908262441
[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]=[C:3]([H:4])[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-0.857291199869
[H:1][C:2]#[C:3][C:4]([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:4]#[C:11][H:12].[H:1][C:2](=[C:3]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[H:13],4.01697777305
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:8]([H:9])#[C:10][C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7],4.39524845851
[C:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[C:1].[C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])([H:10])[H:11],3.93784208596
[O:1]=[C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11]>>[C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11].[O:1],5.0102385147
[C:2]#[C:3][C:4]#[C:5][C:6]([H:7])[O:8][H:9].[H:1]>>[H:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])[O:8][H:9],-4.48694276673
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[C:4]([H:5])([H:6])=[C:7]=[C:8]([H:9])[H:10].[H:1][O:2][C:3],0.4913607337899999
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],1.31118881524
[H:6].[O:1][O:2][C:3]([C:4]#[C:5])=[C:7]([H:8])[H:9]>>[O:1][O:2][C:3]([C:4]#[C:5][H:6])=[C:7]([H:8])[H:9],-5.84963457084
[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:11][H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12],-1.80262657591
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])=[C:10]([H:11])[H:12].[H:9]>>[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-1.6735951672799998
[H:1][C:2]#[C:3][C:4]1[O:5][C@:6]1([H:7])[O:8][H:9]>>[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])[O:8][H:9],1.8031839695700005
[H:13].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11][H:12]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-5.10430241168
[O:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1][O:2][C:3][C:4]([H:5])([H:6])[H:7],4.8553009216500005
